US04612316
(±)-trans-7-Phenylcarbamoyloxy-1,2,3,4,4a,5,6,10b-octahydrobenzo(f)quinoline hydrochloride (Method c)
(±)-trans-7-Phenylcarbamoyloxy-4-benzyl-1,2,3,4,4a,5,6,10b-Octahydrobenzo(f)quinoline hydrochloride (40 mg, 0.12 mmol) was dissolved in MeOH (5 ml) and hydrogenolyzed in the presence of 10% Pd/C (40 mg) at 25 psig at room temperature. After filtration of the catalyst and evaporation of the solvent the desired product (20 mg) was obtained. MS shows M+ at m/e 322.

reactant | (±)-trans-7-Phenylcarbamoyloxy-4-benzyl-1,2,3,4,4a,5,6,10b-Octahydrobenzo(f)quinoline hydrochloride | 0.12 mmol, 40 mg | Cl.C1(=CC=CC=C1)NC(=O)OC1=CC=CC=2[C@@H]3CCCN([C@H]3CCC21)CC2=CC=CC=C2
solvent | MeOH | 5 ml | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | (±)-trans-7-Phenylcarbamoyloxy-1,2,3,4,4a,5,6,10b-octahydrobenzo(f)quinoline hydrochloride | Cl.C1(=CC=CC=C1)NC(=O)OC1=CC=CC=2[C@@H]3CCCN[C@H]3CCC21 | InChI=1S/C20H22N2O2.ClH/c23-20(22-14-6-2-1-3-7-14)24-19-10-4-8-15-16-9-5-13-21-18(16)12-11-17(15)19;/h1-4,6-8,10,16,18,21H,5,9,11-13H2,(H,22,23);1H/t16-,18-;/m0./s1
